US04003914
10 g of 3', 4'-dimethoxy-4-(methylveratrylamino)butyrophenone hydrochloride are dissolved in 50 ml of chloroform and treated with 3.25 g of 1,3-propanedithiol. Hydrogen chloride is conducted into the mixture at room temperature. After standing for 24 hours, the mixture is poured on to water, made basic with 3-N sodium hydroxide and extracted with ether. After drying and evaporation of the solvent, the oily residue is dissolved in acetone and treated with an equivalent amount of anhydrous oxalic acid. The crystalline precipitate is recrystallized from acetone. There is obtained 2-(3,4-dimethoxyphenyl)-N-methyl-N-veratryl-m-dithiane-2-propylamine oxalate (1:1) of melting point 133°-136° C.

reactant | 3', 4'-dimethoxy-4-(methylveratrylamino)butyrophenone hydrochloride | 10 g | Cl.COC=1C=C(C=CC1OC)C(CCCN(CC1=CC(OC)=C(OC)C=C1)C)=O
reactant | 1,3-propanedithiol | 3.25 g | C(CCS)S | C3H8S2
reactant | Hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4-dimethoxyphenyl)-N-methyl-N-veratryl-m-dithiane-2-propylamine oxalate | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C1(SCCCS1)CCCN(CC1=CC(OC)=C(OC)C=C1)C | InChI=1S/C25H35NO4S2.C2H2O4/c1-26(18-19-8-10-21(27-2)23(16-19)29-4)13-6-12-25(31-14-7-15-32-25)20-9-11-22(28-3)24(17-20)30-5;3-1(4)2(5)6/h8-11,16-17H,6-7,12-15,18H2,1-5H3;(H,3,4)(H,5,6)
